US08957064B2
5-{4-[4-(6-fluoro-1H-benzimidazol-2-yl)-piperidin-1-ylmethyl]-phenyl}-6-phenyl-pyrazolo[1,5-a]pyrimidine
250 mg (0.84 mmol) 4-(6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde and 258 mg (1 mmol) 6-fluoro-2-piperidine-4-yl-1H-benzimidazole hydrochloride salt were treated as previously described. Additional NaBH(OAc)3 has been added after one, two and three hours (two equivalents each). After a further hour stirring at room temperature additional 26 mg 6-fluoro-2-piperidine-4-yl-1H-benzimidazole hydrochloride salt and two equivalents NaBH(OAc)3 were added. After stirring overnight and two further additions of NaBH(OAc)3 the solvents were evaporated. Workup and purification yields 249 mg of the desired compound.

reactant | 4-(6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 0.84 mmol, 250 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | 6-fluoro-2-piperidine-4-yl-1H-benzimidazole hydrochloride salt | 1 mmol, 258 mg | Cl.FC=1C=CC2=C(NC(=N2)C2CCNCC2)C1
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 6-fluoro-2-piperidine-4-yl-1H-benzimidazole hydrochloride salt | 26 mg | Cl.FC=1C=CC2=C(NC(=N2)C2CCNCC2)C1
reactant | NaBH(OAc)3 | two equivalents | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 5-{4-[4-(6-fluoro-1H-benzimidazol-2-yl)-piperidin-1-ylmethyl]-phenyl}-6-phenyl-pyrazolo[1,5-a]pyrimidine | 249 mg | FC=1C=CC2=C(NC(=N2)C2CCN(CC2)CC2=CC=C(C=C2)C2=NC=3N(C=C2C2=CC=CC=C2)N=CC3)C1 | C31H27FN6
